US05013738
G. Dimethyl N-{4-[6-(2,6-Diamino-4-hydroxypyrimidin-5-yl) -hex-1-en-3-yl]benzoyl)-L-glutamate
A solution containing 950 mg eq) of 4-[6-(2,6-diamino-4-hydroxypyrimidin-5-yl)hex-1-en-3-yl]benzoic acid as prepared in step F, 351 mg (1.2 eq) Of N-methylmorpholine, and 10.0 ml of anhydrous dimethylformamide, was vigorously stirred at ambient temperature for 5 minutes. To this solution was added 556 mg (1.1 eq) of 2,4-dimethoxy-6-chloro-1,3,5-triazine and this mixture was then stirred at room temperature for 40 minutes. Following additipn to the solution of 351 mg (1.3 eq) of N-methylmorpholine, and 795 mg (1.3 eq) of dry dimethyl-L-glutamate hydrochloride, the mixture was continuously stirred overnight at room temperature and the solvent then removed under reduced pressure. The product was dissolved in chloroform, and extracted with saturated aqueous sodium bicarbonate to remove unreacted acid, triazine and triazinone. The organic extract was dried over magnesium sulfate, filtered and evaporated to dryness to yield the product which was further purified by flash chromatography eluting with 1:10 methanol:chloroform. M.S. m/z=485.2269 (M+, calc. for C24H31N5O6 : 485.2274). 1H-N.M.R. (CDCl3, 300 MHz): 1.03-1.35 (m, 2H, CH2 --CH2CH2); 1.62 (m, 2H, CH2 --CH--CH=); 2.15 (t, 2H, CH2 -pyr, J=7.5 Hz); 2.0-2.5 (m, 4H, 2×CH2(glu) ; 3.18 (m, 1H, CH--C=); 3.56 (s, 3H, CH3O); 3.66 (s, 3H, CH3O); 4.70 (m, 1H, CHglu); 4.8-5.0 (m, 2Holef.,); 4.89 (s (broad), 2H, NH2); 5.6-5.9 (m, 3H, NH2 +CH=CH2); 7.08 (d, 2Harom., J=8 Hz); 7.50 (m, 1H, NHglu); 7.63 (d, 2Harom., J=8 Hz); 11.25 (s (broad), 1H, NHpyr).

reactant | 4-[6-(2,6-diamino-4-hydroxypyrimidin-5-yl)hex-1-en-3-yl]benzoic acid | NC1=NC(=C(C(=N1)O)CCCC(C=C)C1=CC=C(C(=O)O)C=C1)N | C17H20N4O3
reactant | N-methylmorpholine | 351 mg, 1.2 eq | CN1CCOCC1 | C5H11NO
reactant | 2,4-dimethoxy-6-chloro-1,3,5-triazine | 556 mg, 1.1 eq | COC1=NC(=NC(=N1)OC)Cl | C5H6ClN3O2
reactant | N-methylmorpholine | 351 mg, 1.3 eq | CN1CCOCC1 | C5H11NO
reactant | dimethyl-L-glutamate hydrochloride | 795 mg, 1.3 eq | Cl.COC([C@@H](N)CCC(=O)OC)=O
solvent | dimethylformamide | 10.0 ml | CN(C=O)C | C3H7NO
product | Dimethyl N-{4-[6-(2,6-Diamino-4-hydroxypyrimidin-5-yl) -hex-1-en-3-yl]benzoyl)-L-glutamate | NC1=NC(=C(C(=N1)O)CCCC(C=C)C1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)N | C24H31N5O6
